US06479608B1
1-t-Butyl-3,5,5-triethyl-3-methyl-piperazin-2-on (256)
In analogy to Example B21, 1,1-diethyl-2-t-butylaminoethylamin, methylethylketon, chloroform and NaOH are reacted to give the title compound (64%) as an yellow oil.

reactant | 1,1-diethyl-2-t-butylaminoethylamin | C(C)C(CNC(C)(C)C)(CC)N | C10H24N2
reactant | methylethylketon | CC(=O)CC | C4H8O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3,5,5-triethyl-3-methyl-piperazin-2-on | 64% | C(C)(C)(C)N1C(C(NC(C1)(CC)CC)(C)CC)=O | C15H30N2O
